US07060827B2
In a like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-chloro-4-methoxyaniline were reacted to provide N2,N4-Bis(3-chloro-4-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.90 (bs, 1H), 9.68 (bs, 1H), 8.16 (d, 1H, J=4.8 Hz), 7.72 (d, 1H, J=2.4 Hz), 7.65 (d, 1H, J=2.1 Hz), 7.58 (dd, 1H, J=2.4 and 9.0 Hz), 7.38 (dd, 1H, J=2.7 and 9.3 Hz), 7.12 (d, 1H, J=8.7 Hz), 7.12 (d, 1H, J=8.7 Hz), 7.05 (d, 1H, J=8.7 Hz), 3.83 (s, 3H), 3.79 (s, 3H); LCMS: purity: 99%; MS (m/e): 410(MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-chloro-4-methoxyaniline | ClC=1C=C(N)C=CC1OC | C7H8ClNO
product | N2,N4-Bis(3-chloro-4-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine | ClC=1C=C(C=CC1OC)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC)Cl)F | C18H15Cl2FN4O2
